US04487779
3-Benzyloxy-2,6-dichlorobenzoic acid
271.6 g of 2,6-dichloro-3-hydroxybenzoic acid are dissolved in ethanol (2 l). Aqueous sodium hydroxide (242 g of 50% aqueous NaOH solution in 550 ml H2O) is added to the benzoic acid solution, followed by the addition of benzyl chloride (368 g). The reaction mixture is heated to reflux with stirring, and after one hour, additional sodium hydroxide solution (45 g of a 50% aqueous NaOH) and benzyl chloride (30 g) are added. After one hour twenty-five minutes, another 20 g of 50% sodium hydroxide solution are added. After twenty minutes, the reaction mixture is cooled and evaporated to remove ethanol. The mixture is then partitioned between diethylether (2 l) and 5% aqueous sodium hydroxide (2 l). The layers are separated and the aqueous solution washed with diethylether. The aqueous extract is cooled in an ice bath and acidified just short of neutral with conc. HCl. Diethylether (2 l) is added and the solution made strongly acidic. The two layers are stirred for fifteen minutes and separated. The aqueous layer is washed with diethylether and the combined ether layers washed with H2O, saturated sodium chloride solution, and dried over Na2SO4. The ether is filtered and the filtrate evaporated in vacuo to a light yellow oil (338.2 g). 500 ml of toluene are added to the oil and partially evaporated, resulting in a precipitate. The suspension is allowed to stand and used without further treatment for the further reactions. The toluene suspension contains a large amount of heavy crystalline precipitate.

reactant | 2,6-dichloro-3-hydroxybenzoic acid | 271.6 g | ClC1=C(C(=O)O)C(=CC=C1O)Cl | C7H4Cl2O3
reactant | sodium hydroxide | 550 ml, 242 g | [OH-].[Na+]
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | benzyl chloride | 368 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | benzyl chloride | 30 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium hydroxide | 20 g | [OH-].[Na+]
solvent | ethanol | 2 l | C(C)O | C2H6O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Benzyloxy-2,6-dichlorobenzoic acid | C(C1=CC=CC=C1)OC=1C(=C(C(=O)O)C(=CC1)Cl)Cl | C14H10Cl2O3
